US07981903B2
To a solution of 2-amino-5,6-difluoro benzoic acid (3.78 g, 21.8 mmol) in tetrahydrofuran (500 mL) was added EDCl.HCl (8.5 g, 44.0 mmol, 2.0 equiv.), HOBT (5.9 g, 44 mmol, 2.0 equiv.) and ammonia as a 0.5M solution in dioxanes (218 mL, 109 mmol, 5 equiv.). The resultant slurry was stirred for 24 hours, and then solids removed by filtration through celite. The filtrate was taken to a residue under reduced pressure and partitioned between water and ethyl acetate. The organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by chromatography on SiO2 (Ethyl acetate/Hexanes) to afford analytically pure 2-amino-5,6-difluorobenzamide as a white crystalline solid (2.73 g, 15.8 mmol, 72% Yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 5.78 (s, 2 H), 6.45 (ddd, J=9.16, 4.03, 1.83 Hz, 1 H), 7.10-7.18 (m, 1 H), 7.69 (d, J=11.00 Hz, 2 H).

reactant | 2-amino-5,6-difluoro benzoic acid | 21.8 mmol, 3.78 g | NC1=C(C(=O)O)C(=C(C=C1)F)F | C7H5F2NO2
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 44.0 mmol, 8.5 g, 2.0 equiv. | Cl | ClH
reactant | HOBT | 44 mmol, 5.9 g, 2.0 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2-amino-5,6-difluorobenzamide | 15.8 mmol, 2.73 g, 72% Yield | NC1=C(C(=O)N)C(=C(C=C1)F)F | C7H6F2N2O
